US07786113B2
(2-Phenyl-3H-imidazo[4,5-b]pyridin-6-yl)-carbamic acid (E)-1-methyl-but-2-enyl ester
32 mg 3-penten-2-ol (0.38 mmol,) in 1 ml dry dichloromethane were treated at 0° C. with 62 mg 1,1′-carbonyl-diimidazole. The mixture was stirred at 0° C. for 2 hrs. 80 mg 2-phenyl-3H-imidazo[4,5-b]pyridin-6-ylamine (0.38 mmol,) in 0.5 ml N-methylpyrrolidone (NMP) were added and the mixture stirred over night at room temperature. 1 ml water was added, the precipitate filtered, and the filter residue washed thoroughly with water and ether and further purified by chromatography.

reactant | 3-penten-2-ol | 0.38 mmol, 32 mg | CC(C=CC)O | C5H10O
reactant | 1,1′-carbonyl-diimidazole | 62 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-phenyl-3H-imidazo[4,5-b]pyridin-6-ylamine | 0.38 mmol, 80 mg | C1(=CC=CC=C1)C1=NC=2C(=NC=C(C2)N)N1 | C12H10N4
reactant | water | 1 ml | O | H2O
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
solvent | N-methylpyrrolidone | 0.5 ml | CN1C(CCC1)=O | C5H9NO
product | (2-Phenyl-3H-imidazo[4,5-b]pyridin-6-yl)-carbamic acid (E)-1-methyl-but-2-enyl ester | CC(\C=C\C)OC(NC=1C=C2C(=NC1)NC(=N2)C2=CC=CC=C2)=O | C18H18N4O2
